US04567175
A mixture of 0.9 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-methyl-N-ethylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride, 5 ml of acetic anhydride and 5 ml of acetic acid is treated in the same manner as described in Example 6. The crude product thus obtained is recrystallized from a mixture of chloroform, ethanol and ether. 0.9 g of (±)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(N-methyl-N-ethylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride is thereby obtained as needles.

reactant | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-methyl-N-ethylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride | 0.9 g | Cl.COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(CC)C)C=CC(=C2)Cl
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | (±)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(N-methyl-N-ethylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride | 0.9 g | Cl.COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCN(CC)C)C=CC(=C2)Cl | InChI=1S/C23H27ClN2O4S.ClH/c1-5-25(3)12-13-26-19-11-8-17(24)14-20(19)31-22(21(23(26)28)30-15(2)27)16-6-9-18(29-4)10-7-16;/h6-11,14,21-22H,5,12-13H2,1-4H3;1H/t21-,22+;/m1./s1
